US09428508B2
To a solution of N-(8-bromo-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)acetamide (5 g, 18.4 mmol) in toluene (50 mL) was added morpholine (1.9 g, 22 mmol), Pd2(dba)3 (1.68 g, 1.84 mmol), X-Phos (1.75 g, 3.68 mmol) and potassium tert-butoxide (4.1 g, 36.8 mmol) in a sealed tube. The mixture was heated at 130° C. for overnight. After cooled to room temperature, the mixture was filtered and the filtrate was evaporated to give a crude product, which was purified by silica gel column chromatography (petroleum ether/ethyl acetate 4/1) to afford the product N-(8-morpholino-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)acetamide (2 g, yield 40%).

reactant | N-(8-bromo-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)acetamide | 18.4 mmol, 5 g | BrC1=CC=C(C2=C1OCCO2)NC(C)=O | C10H10BrNO3
reactant | morpholine | 22 mmol, 1.9 g | N1CCOCC1 | C4H9NO
reactant | X-Phos | 3.68 mmol, 1.75 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | potassium tert-butoxide | 36.8 mmol, 4.1 g | CC(C)([O-])C.[K+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 1.84 mmol, 1.68 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(8-morpholino-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)acetamide | 2 g, yield 40% | O1CCN(CC1)C1=CC=C(C2=C1OCCO2)NC(C)=O | C14H18N2O4
